US09427475B2
Step D: 3-(2,3,4,6-tetra-O-benzyl-α-D-glucopyranosyl)propyl methanesulfonate
To a solution of 3-(2,3,4,6-tetra-O-benzyl-α-D-glucopyranosyl)propanol (3.35 g, 5.75 mmol) in CH2Cl2 (30 mL) at 0° C. was added DIPEA (1.25 mL, 7.19 mmol) and followed by dropwise addition of methanesulfonyl chloride (538μL, 6.9 mmol). After stirring at 0° C. for 1 hr, the reaction mixture was poured into water (50 mL). The organic layer was separated and washed with sat'd NaHCO3 (50 mL), brine (30 mL), dried over MgSO4, filtered and concentrated to give the title compound. 1H NMR (CDCl3) δ 1.76-1.90 (m, 3H), 1.90-1.99 (m, 2H), 3.00 (s, 3H), 3.58-3.66 (m, 2H), 3.68-3.74 (m, 2H), 3.77-3.85 (m, 2H), 4.06 (m, 1H), 4.52 (d, J=10.7, 1H), 4.54 (d, J=12.1, 1H), 4.65 (d, J=12.1, 1H), 4.66 (d, J=11.6, 1H), 4.76 (d, J=11.6, 1H), 4.85 (d, J=10.9, 1H), 4.98 (d, J=10.9, 1H), 7.18 (m, 2H), 7.30-7.40 (m, 18H).

reactant | 3-(2,3,4,6-tetra-O-benzyl-α-D-glucopyranosyl)propanol | 5.75 mmol, 3.35 g | C(C1=CC=CC=C1)O[C@H]1[C@H](O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)CCCO | C37H42O6
reactant | DIPEA | 7.19 mmol, 1.25 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | methanesulfonyl chloride | 6.9 mmol, 538μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | 50 mL | O | H2O
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | 3-(2,3,4,6-tetra-O-benzyl-α-D-glucopyranosyl)propyl methanesulfonate | CS(=O)(=O)OCCC[C@@H]1[C@H](OCC2=CC=CC=C2)[C@@H](OCC2=CC=CC=C2)[C@H](OCC2=CC=CC=C2)[C@H](O1)COCC1=CC=CC=C1 | C38H44O8S
